US07989457B2
Step B. (4′-Trifluoromethyl-biphenyl-4-yl)-acetaldehyde
To a 0° C. solution of 4′-(2-methoxy-vinyl)-4-trifluoromethyl-biphenyl (464 mg, 1.67 mmol) in THF (17 mL) is added dropwise concentrated hydrochloric acid (2.98 mL) and the reaction is warmed to room temperature. After 1 h TLC (30% EtOAc/hexane) indicates complete consumption of starting material. The reaction mixture is diluted with water and the pH is adjusted to 8 with solid NaHCO3. The reaction mixture is concentrated and the aqueous layer extracted with EtOAc (3×50 mL). The combined organic layers are washed with brine, dried (MgSO4), filtered, concentrated and chromatographed (40 g SiO2, 5% EtOAc/Hexanes) to yield the title compound (424 mg, 96%). 1NMR (400 MHz, CDCl3) δ ppm: 9.81 (t, 1H, J=2.2 Hz), 7.69 (s, 4H), 7.61 (d, 2H, J=8.4 Hz), 7.33 (d, 2H, J=8.4 Hz), 3.78 (d, 2H, J=1.8 Hz).

reactant | 4′-(2-methoxy-vinyl)-4-trifluoromethyl-biphenyl | 1.67 mmol, 464 mg | COC=CC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C16H13F3O
reactant | hydrochloric acid | 2.98 mL | Cl | ClH
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | (4′-Trifluoromethyl-biphenyl-4-yl)-acetaldehyde | 424 mg, 96% | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)CC=O)(F)F | C15H11F3O
